US07504508B2
(2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-trifluoromethanesulfonylamino-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide (H-75)
(2S,4R)-N-{1-[4-(3-Amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide (34 mg, 0.069 mmol) was dissolved in methylene chloride (0.5 mL) and triethylamine (0.019 mL, 0.138 mmol) and cooled to −40° C. Trifluoromethanesulfonic anhydride (0.015 mL, 0.086 mmol) was added and the mixture was warmed to 0° C. for 30 minutes. The mixture was partitioned between methylene chloride and water; the methylene chloride layer was dried over MgSO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (1/1 hexanes/ethyl acetate-ethyl acetate gradient) to afford the product.

reactant | (2S,4R)-N-{1-[4-(3-Amino-propoxy)-benzoyl]-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl}-N-(4-chloro-phenyl)-acetamide | 0.069 mmol, 34 mg | NCCCOC1=CC=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C1 | C28H30ClN3O3
reactant | triethylamine | 0.138 mmol, 0.019 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 0.086 mmol, 0.015 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-N-(4-Chloro-phenyl)-N-{2-methyl-1-[4-(3-trifluoromethanesulfonylamino-propoxy)-benzoyl]-1,2,3,4-tetrahydro-quinolin-4-yl}-acetamide | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OCCCNS(=O)(=O)C(F)(F)F)=O)C | C29H29ClF3N3O5S
